US07777042B2
(S)-1-(3-Trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid [(S)-2-(4-isopropoxy-phenyl)-1-methylcarbamoyl-ethyl]-amide
To a room temperature solution of (S)-3-(4-isopropoxy-phenyl)-2-{[(S)-1-(3-trifluoromethyl-benzenesulfonyl)-piperidine-2-carbonyl]-amino}-propionic acid (319 mg, 0.588 mmol) (prepared according to the method described for the preparation of compound 17e), PyBroP (301 mg, 0.645 mmol), and methylene chloride (8 mL) was added methylamine (3.0 mL of a 2M THF solution) in one portion. The reaction mixture was shaken at room temperature in a sealed vessel for 2.5 h. The reaction mixture was then diluted with methylene chloride, washed with 0.5 N HCl and water successively, dried over MgSO4, filtered, and evaporated. The residue was chromatographed on silica gel eluting with ethyl acetate. Homogenous fractions with Rf=0.32 (silica gel, ethyl acetate) material were combined and concentrated to afford 197 mg (60%) of the title compound as a white foam. LC/MS: RT 3.38 min, Area % 100, m/e 556 (M+H). 1H NMR (400 MHz, d6-DMSO) δ8.01 d (J=8 Hz; Tyr NH), 7.99 brd (J=7.5 Hz; H-6 of ArSO2), 7.94 brs (H-2 of ArSO2), 7.84 q (J=4.5 Hz; CONHMe), 7.72 brd (J=8 Hz; H-4 of ArSO2), 7.59 dd (J=8, 7.5 Hz; H-5 of ArSO2), 7.11 m (2H, AA′-part of AA′MM′; H-2/H-6 of C6H4), 6.82 m (2H, MM′-part of AA′MM′; H-3/H-5 of C6H4), 4.56 brd (J=5 Hz; Pip H-2), 4.53 qq (J=6 Hz, 6; OiPr), 4.21 ddd (J=9, 8, 5.5 Hz; Tyr Ha), 3.65 dm (J=12.5; Pip H-6 eq), 3.17 ddd (J=13, 12.5, 3; Pip H-6ax), 2.84 dd (J=13.5, 5.5; Tyr Hb), 2.66 dd (J=13.5, 9; Tyr H′b), 2.53 d (3H, J=4.5; CONHMe), 1.95 brd (J=13.5; Pip H-3 eq), 1.49 dm (J=12.5 Hz; Pip H-Seq), 1.40 m (Pip H-4 eq), 1.36 m (Pip H-3ax), 1.21 d (3H, J=6 Hz; OiPr), 1.19 d (3H, J=6 Hz; OiPr), 1.16 m (Pip H-5ax), 1.06 m (Pip H-4ax).

reactant | (S)-3-(4-isopropoxy-phenyl)-2-{[(S)-1-(3-trifluoromethyl-benzenesulfonyl)-piperidine-2-carbonyl]-amino}-propionic acid | 0.588 mmol, 319 mg | C(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C25H29F3N2O6S
reactant | PyBroP | 0.645 mmol, 301 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | methylamine | CN | CH5N
reactant | THF | 2M | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(3-Trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid [(S)-2-(4-isopropoxy-phenyl)-1-methylcarbamoyl-ethyl]-amide | 197 mg, 60% | C(C)(C)OC1=CC=C(C=C1)C[C@@H](C(NC)=O)NC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C26H32F3N3O5S
